US04298602
A solution was prepared by admixing 17.02 g (0.10 m) of 2-(6-fluoro-2-pyridinyl)hydrazinecarboxamide with 100 ml of triethylorthoacetate. The mixture was refluxed overnight and the reaction mixture cooled to room temperature and poured over ice water. The solids which precipitated out were recovered by filtration. The solids were washed with methylene chloride and dried under vacuum to yield 11.4 g (58.7 percent of theoretical) of the desired 1-(6-fluoro-2-pyridinyl)-5-methyl-1H-1,2,4-triazol-3-ol. The product melted at 272°-274° C. and upon analysis was found to have carbon, hydrogen and nitrogen contents of 49.58, 3.83 and 28.88 percent, respectively, as compared with the theoretical contents of 49.48, 3.63 and 28.85 percent, respectively, as calculated for the above named compound.

reactant | 2-(6-fluoro-2-pyridinyl)hydrazinecarboxamide | 17.02 g | FC1=CC=CC(=N1)NNC(=O)N | C6H7FN4O
reactant | triethylorthoacetate | 100 ml | C(C)C(C([O-])([O-])[O-])(CC)CC
product | 1-(6-fluoro-2-pyridinyl)-5-methyl-1H-1,2,4-triazol-3-ol | 11.4 g, 58.7 percent | FC1=CC=CC(=N1)N1N=C(N=C1C)O | C8H7FN4O
